US03976648
Zinc Bis(5-phenyl-2-trichloromethyl-3-oxazolidinecarbodithioate) ##EQU2##
A mixture of 30.3 g (0.3 mole) triethylamine, 13.3 g. (0.1 mole) zinc acetate, 55.0 g. (0.206 mole) 5-phenyl-2-trichloromethyloxazolidine and 15.6 g. (0.206 mole) carbon disulfide was stirred at ambient temperatures for 17 hours and then was heated at 50°C, for three hours. A reddish amber-colored semi-solid was obtained after the volatile materials were distilled off at 50°/25 mm. Hg. The semi-solid was dissolved in methanol and the resulting solution added to water with vigorous stirring. The solids were filtered, air-dried, and redissolved in benzene. After drying the solution with magnesium sulfate, filtering the mixture and evaporating the solvent, 37 g. (58%) of the desired product (m.p. 91°-93°C.) was obtained; its infrared spectrum was consistent with the structure.

reactant | triethylamine | 0.3 mole, 30.3 g | C(C)N(CC)CC | C6H15N
reactant | zinc acetate | 0.1 mole | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
reactant | 5-phenyl-2-trichloromethyloxazolidine | 0.206 mole | C1(=CC=CC=C1)C1CNC(O1)C(Cl)(Cl)Cl | C10H10Cl3NO
reactant | carbon disulfide | 0.206 mole | C(=S)=S | CS2
product | Zinc Bis(5-phenyl-2-trichloromethyl-3-oxazolidinecarbodithioate) | 58% | C1(=CC=CC=C1)C1CN(C(O1)C(Cl)(Cl)Cl)C(=S)[S-].C1(=CC=CC=C1)C1CN(C(O1)C(Cl)(Cl)Cl)C(=S)[S-].[Zn+2] | InChI=1S/2C11H10Cl3NOS2.Zn/c2*12-11(13,14)9-15(10(17)18)6-8(16-9)7-4-2-1-3-5-7;/h2*1-5,8-9H,6H2,(H,17,18);/q;;+2/p-2
